US05089181
A sonicated POPC/DOPS dispersion in phosphate buffer plus 10% sucrose (mole ratio 7:3) is prepared as described previously. 3H --labeled raffinose is entrapped in the vesicle cavity and external [3H,]- raffinose is removed by gel filtration on Sephadex G-50 as described previously. The lipid dispersion consisting of SUV with entrapped raffinose was chromatographed on Sepharose 4B before and after spray-drying. Before spray-drying it was found that 95% of the raffinose eluted together with the vesicle peak. After spray-drying 85% of the raffinose was eluted together with SUV. This experiment thus demonstrates that raffinose remains essentially entrapped during spray-drying at least to 90%.

reactant | POPC DOPS | CCCCCCCCCCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC.C1=CC(=C(C=C1[C@H]([C@@H](C(=O)O)N)O)O)O
reactant | raffinose | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@]3([C@H]([C@@H]([C@H](O3)CO)O)O)CO)O)O)O)O)O)O)O | C18H32O16
solvent | phosphate | P(=O)([O-])([O-])[O-]
product | sucrose | 10% | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
